### PR TITLE
feat: BitVec.shiftLeft_shiftLeft, BitVec.shiftRight_shiftRight

### PR DESCRIPTION
**Pull request by bollu**
Closes two `sorry`s at https://github.com/leanprover/leansat/pull/64/files.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -608,6 +608,32 @@ theorem shiftLeftZeroExtend_eq {x : BitVec w} :
     (shiftLeftZeroExtend x i).msb = x.msb := by
   simp [shiftLeftZeroExtend_eq, BitVec.msb]
 
+theorem BitVec.shiftLeft_shiftLeft (w : Nat) (x : BitVec w) (n m : Nat) :
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:611]:
```suggestion
theorem BitVec.shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -608,6 +608,32 @@ theorem shiftLeftZeroExtend_eq {x : BitVec w} :
...
+    (x <<< n) <<< m = x <<< (n + m) := by
+  ext i
+  simp only [getLsb_shiftLeft, Fin.is_lt, decide_True, Bool.true_and]
+  -- omega claims that the system cannot be proven, so we case bash.
+  -- The entire proof below should be redundant once omega is complete.
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:616]: `decide` statements are out of scope for `omega`!

Comment (semorrison) [reply src/Init/Data/BitVec/Lemmas.lean:616]: If you want to case bash and then hand off to `omega`, use:
```
theorem BitVec.shiftLeft_shiftLeft (w : Nat) (x : BitVec w) (n m : Nat) :
    (x <<< n) <<< m = x <<< (n + m) := by
  ext i
  simp only [getLsb_shiftLeft, Fin.is_lt, decide_True, Bool.true_and]
  rw [show i - (n + m) = (i - m - n) by omega]
  cases h₂ : decide (i < m) <;> cases h₃ : decide (i - m < w) <;> cases h₄ : decide (i - m < n) <;> cases h₅ : decide (i < n + m) <;>
    simp at * <;> omega
```

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:616]: Sweet, thanks for the tutorial! `rw [show _ by omega]` is a neat one, I'm going to remember this golf trick :)
